US07067517B2
cis-Methyl-phenyl-carbamic acid 4-(1,3-dioxo-octahydro-isoindol-2-yl)-phenyl ester
The title compound (293 mg, 77% yield, white crystals) was prepared from cis-2-(4-hydroxy-phenyl)hexahydroisoindole-1,3-dione (245 mg, 1.00 mmol) and 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (343 mg, 1.00 mmol). HPLC-MS m/z=379 (M+1); Rt=4.08 min.

reactant | cis-2-(4-hydroxy-phenyl)hexahydroisoindole-1,3-dione | 1.00 mmol, 245 mg | OC1=CC=C(C=C1)N1C([C@H]2CCCC[C@H]2C1=O)=O | C14H15NO3
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 1.00 mmol, 343 mg | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
product | cis-Methyl-phenyl-carbamic acid 4-(1,3-dioxo-octahydro-isoindol-2-yl)-phenyl ester | 293 mg, 77% yield | O=C1N(C([C@@H]2CCCC[C@H]12)=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C22H22N2O4
